* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM2746
*BIPOLAR OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM2746 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm2746_s
X2 +IN2 -IN2 V+ V- OUT2 njm2746_s
.ENDS NJM2746
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm2746_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
Q1 11 2 13 PNP1 
Q2 12 1 14 PNP2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 21 4 {VRC}
VRC2 22 4 {VRC}
RE2 10 14 {RE1}
RE1 10 13 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}

.MODEL DMOD1 D(T_MEASURED= 25 IS = 8.21E-12)
.MODEL DMOD2 D(T_MEASURED= 25 IS = 8.00E-16)

.MODEL PNP1 PNP(TREF = 25 IS = 8.00E-16 BF = 2925.853659)
.MODEL PNP2 PNP(TREF = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1   = 1.89E-11
+ C2   = 1.58E-10
+ CE   = 0.00E+00
+ GCM  = 1.94E-06
+ GA   = 1.09E-02
+ GB   = 0.65
+ GC   = 5.21E+03
+ ITL  = 6.00E-04
+ RC1  = 91.67
+ RC   = 1.92E-04
+ RE1  = 5.99
+ RE   = 3.33E+05
+ RO1  = 50
+ RO2  = 25
+ RP   = 2.20E+04
+ VC   = 0.881779
+ VE   = 0.881754795
+ VTL  = 1.00E+00
+ VRC  = 0.35
+ ICE  = 1.0E-3
+ ISM2 = 8.0853808E-16
+ BFM2 = 3075.897436

.ends njm2746_s
*$
